US07091228B2
2-Chloro-6-trifluoromethoxy-1,3-benzothiazole
To a solution containing dry copper (II) chloride (3.44 g, 25.62 mmol) and tri(ethylene glycol) dimethyl ether (10 g) in acetonitrile (150 mL) was added isoamyl nitrite (4.5 mL, 32.02 mmol). The reaction mixture was stirred at rt under argon for 30 minutes. To this suspension was added dropwise, a solution containing 6-trifluoromethoxy-1,3-benzothiazol-2-ylamine (5 g, 21.35 mmol) and tri(ethylene glycol) dimethyl ether (10 g). The reaction mixture was stirred at rt for 10 minutes, and then heated at 50° C. for 3 h. The mixture was cooled to rt, poured cautiously into aqueous 6 N HCl, and extracted with ethyl acetate. The organic layer was washed with 1N aqueous HCl and brine, and concentrated under reduced pressure to give the desired compound in near-quantitative yield, which was used without further purification in the next step.

reactant | isoamyl nitrite | 32.02 mmol, 4.5 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | 6-trifluoromethoxy-1,3-benzothiazol-2-ylamine | 21.35 mmol, 5 g | FC(OC1=CC2=C(N=C(S2)N)C=C1)(F)F | C8H5F3N2OS
reactant | HCl | 6 N | Cl | ClH
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
catalyst | copper (II) chloride | 25.62 mmol, 3.44 g | [Cu](Cl)Cl
product | 2-Chloro-6-trifluoromethoxy-1,3-benzothiazole | quantitative yield | ClC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H3ClF3NOS
